US07344702B2
Synthesis of 2-tert-butyl-4-tert-butyldimethylsilyloxymethyl-5-chloro 3(2H)-pyridazinone
2-tert-butyl-4-hydroxymethyl-5-chloro 3(2H)-pyridazinone (1 g, 4.62 mmol) is dissolved in DMF in a 25 ml round bottom flask and to this were added imidazole (0.377 g, 5.0 mmol) and tert-butyldimethylsilyl chloride (0.762 g, 3.09 mmol). The mixture is stirred for 10 hours after which it is extracted in dichloromethane and the organic layer washed with water and dried. Purification by flash chromatography (silica gel; ethyl acetate/hexanes) affords the above mentioned product.

reactant | 2-tert-butyl-4-hydroxymethyl-5-chloro 3(2H)-pyridazinone | 4.62 mmol, 1 g | C(C)(C)(C)N1N=CC(=C(C1=O)CO)Cl | C9H13ClN2O2
reactant | imidazole | 5.0 mmol, 0.377 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 3.09 mmol, 0.762 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-tert-butyl-4-tert-butyldimethylsilyloxymethyl-5-chloro 3(2H)-pyridazinone | C(C)(C)(C)N1N=CC(=C(C1=O)CO[Si](C)(C)C(C)(C)C)Cl | C15H27ClN2O2Si
